US07399867B2
Add 4-bromobenzenesulfonyl chloride (2.20 g, 8.61 mmol) and pyridine (30 mL) to a round bottom flask. At ambient temperature, with stirring, add neopentyl alcohol (1.39 mL, 12.91 mmol). After stirring the reaction overnight at ambient temperature quench the reaction with saturated aqueous sodium bicarbonate and extract it with ethyl acetate. Wash the combined extracts with saturated aqueous sodium bicarbonate, 0.05 N aqueous hydrochloric acid and brine, then dry (sodium sulfate), and concentrate in vacuo. Purify the resulting-material on a flash column (silica gel; 30%-50% gradient of CH2Cl2 in hexanes) to provide 2.24 g of 4-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester (85%).

reactant | 4-bromobenzenesulfonyl chloride | 8.61 mmol, 2.20 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | neopentyl alcohol | 12.91 mmol, 1.39 mL | C(C(C)(C)C)O | C5H12O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester | 2.24 g, 85% | CC(COS(=O)(=O)C1=CC=C(C=C1)Br)(C)C | C11H15BrO3S
